### PR TITLE
Add Erdős Problem 1079 (dense neighbourhoods and Turán's theorem), link Bondy's formal proof

### LINKED ISSUE #1118: Erdős Problem 1079
### What is the conjecture

https://www.erdosproblems.com/1079

  Let $r\geq 4$. If $G$ is a graph on $n$ vertices with at least $\mathrm{ex}(n;K_r)$ edges then must $G$ contain a vertex with degree $d\gg_r n$ whose neighbourhood contains at least $\mathrm{ex}(d;K_{r-1})$ edges?

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #1118.

### What changed
Adds `FormalConjectures/ErdosProblems/1079.lean`:
- `erdos_1079` (`research solved`, `answer(True)`): for `r ≥ 4` there is `c > 0` such that every graph on `n ≥ 2` vertices with at least `ex(n; K_r)` edges has a vertex `v` with `c·n ≤ d(v)` whose neighbourhood spans at least `ex(d(v); K_{r-1})` edges (Bollobás–Thomason [BoTh81]). Edges in the neighbourhood are counted as edges of `G` both of whose endpoints are adjacent to `v`; `n = 1` is excluded since every degree is then `0`.
- `erdos_1079.variants.bondy` (`research solved`): Bondy's strengthening [Bo83b] — with more than `ex(n; K_r)` edges, a maximum-degree vertex works, has degree at least `n/2`, and the neighbourhood inequality is strict. Linked to plby/lean-proofs `Erdos1079.erdos_1079` (Codex and GPT-5.6 Sol).

### Why
Issue #1118 is up for grabs (earlier PRs #1281 and #5940 were closed). plby's proof of Bondy's theorem is single-file, Mathlib-only and axiom-clean; Bollobás–Thomason's non-strict form is left as `sorry`.

### How checked
- Rebuilt plby's file against this repo's Mathlib: `#print axioms Erdos1079.erdos_1079` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new variant on top of a renamed copy, same axioms (plby's `cliqueExtremalNumber`, `edgeCount` and `linkEdgeCount` are definitionally the expressions used here; plby needs `2 ≤ n`, which follows from the edge hypothesis):

<details>
<summary>Bridge</summary>

```lean
open SimpleGraph

theorem bondy_bridge : type_of% Erdos1079.erdos_1079.variants.bondy := by
  intro r n hr G _ hG
  have hn : 2 ≤ n := by
    by_contra h
    push Not at h
    have : G.edgeSet = ∅ := by
      rw [Set.eq_empty_iff_forall_notMem]
      intro e he
      induction e using Sym2.ind with
      | _ x y =>
        rw [mem_edgeSet] at he
        exact G.ne_of_adj he (Fin.ext (by omega))
    rw [this, Set.ncard_empty] at hG
    omega
  have hG' : Erdos1079Plby.cliqueExtremalNumber n r < Erdos1079Plby.edgeCount G := hG
  obtain ⟨v, hv, hdeg, hlink⟩ := Erdos1079Plby.erdos_1079 hr hn G hG'
  refine ⟨v, ?_, ?_, ?_⟩
  · convert hv
  · convert hdeg
  · convert hlink using 1
    · exact congrArg (fun d => Erdos1079Plby.cliqueExtremalNumber d (r - 1)) (by convert rfl)
    · rfl
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«1079»` passes.

### CODE REVIEW

**Review by mo271 — APPROVED** [review]

File: FormalConjectures/ErdosProblems/1079.lean [hunk 1]
```diff
@@ -0,0 +1,77 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1079.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```
